US04748186
Sodium hydroxide (3.7 ml, 20M) was added to a stirred solution of 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (10 grams, 0.061 mole) in dimethyl sulfoxide (31 ml). Upon completion of addition, carbon disulfide (6.06 grams, 0.08 mole) was added. The reaction mixture was stirred for one hour at ambient temperature, then cooled to 0° C. at which time 4-bromo-1,1,2-trifluoro-1-butene was added dropwise. The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was diluted with water (400 ml) and extracted with diethyl ether. The extract was dried (sodium sulfate) and concentrated under reduced pressure leaving a residue. This residue was passed through a column of silica gel, eluting with hexane:diethyl ether (9:1). Appropriate fractions were combined and concentrated under reduced pressure, yielding (3,4,4-trifluoro-3-butenyl) N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)dithiocarbamate (Compound A12). The NMR spectrum was consistent with the proposed structure.

reactant | Sodium hydroxide | 20M, 3.7 ml | [OH-].[Na+]
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | 0.061 mole, 10 grams | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | carbon disulfide | 0.08 mole, 6.06 grams | C(=S)=S | CS2
reactant | 4-bromo-1,1,2-trifluoro-1-butene | BrCCC(=C(F)F)F | C4H4BrF3
solvent | dimethyl sulfoxide | 31 ml | CS(=O)C | C2H6OS
solvent | water | 400 ml | O | H2O
product | (3,4,4-trifluoro-3-butenyl) N-(2,3-dihydro-2,2-dimethylbenzofuran-7-yl)dithiocarbamate | CC1(OC2=C(C1)C=CC=C2NC(SCCC(=C(F)F)F)=S)C | C15H16F3NOS2
